US05382598
a. 4-Amino-3'-fluorobenzophenone
To stirred 90° C. polyphosphoric acid (150 g) was added 10.72 g (7.65 mmol) of 3-fluorobenzoic acid and 6.98 g (7.5 mmol) of aniline and the bath temperature raised to 180°-190° C. and held there for 1 hour. A solution was obtained at about 130° C. The heating bath was removed and the stirred mixture (sublimate above the solution) was treated cautiously with 60 mL of water. The mixture was stirred at 140°-155° C. for 1 hour, the heating bath removed, 50 mL of 3N HCl added, the mixture poured into 750 mL of water and filtered through a pad of Celite. The filtrate was basified with 15% sodium hydroxide and the resulting solid extracted with methylene chloride. The dried (MgSO4) solution was filtered and the solvent removed to yield a brown solid. Recrystallization from ethanol-hexane (1:3) returned a greenish yellow solid that was chromatographed on silica gel (methylene chloride) to yield 4.83 g (30%) of yellow 4-amino-3'-fluorobenzophone, mp 98°-100° C. 1H NMR (300 MHz, CDCl3): 4.21 (s, 2H, NH2) 6.66-6.70 (m, 2H, aromatic) 7.23-7.26 (m, 1H, aromatic) 7.39-7.51 (m, 3H, aromatic) 7.69-7.72 (m, 2H, aromatic). MS (CI, CH4): 216 (M+1).

reactant | 3-fluorobenzoic acid | 7.65 mmol, 10.72 g | FC=1C=C(C(=O)O)C=CC1 | C7H5FO2
reactant | aniline | 7.5 mmol, 6.98 g | NC1=CC=CC=C1 | C6H7N
reactant | CH4 | C | CH4
product | 4-Amino-3'-fluorobenzophenone | NC1=CC=C(C(=O)C2=CC(=CC=C2)F)C=C1 | C13H10FNO
